US04795751
In the same manner as described in Example 1 (1), a mixture of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 1-ethoxycarbonyl-3-methyl-piperazine, and dimethyl sulfoxide was stirred at 150° C. for 2 hours to give 5-amino-1-cyclopropyl-6,8-difluoro-7-(4-ethoxycarbonyl-2-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, m.p. 220°-225° C.

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 1-ethoxycarbonyl-3-methyl-piperazine | C(C)OC(=O)N1CC(NCC1)C | C8H16N2O2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 5-amino-1-cyclopropyl-6,8-difluoro-7-(4-ethoxycarbonyl-2-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)N1C(CN(CC1)C(=O)OCC)C)F)C1CC1)C(=O)O)=O | C21H24F2N4O5
